US04254134
N-(1,3,4,9-tetrahydro-2H-carbazol-2-yl)acetamide (Compound 2a)
A stirred solution of 140.9 g (0.909 mol) of N-(3-oxocylohexyl)acetamide in 900 ml of glacial HOAc was heated at 85°-95° C. while 98.2 g (0.909 mol) of phenylhydrazine was added dropwise during 1 hr. After an additional 3 hr at 95°±5°, the hot solution was poured into 5 l. of H2O. When the initially formed gum had solidified, the product was filtered, washed with 2.5 l. of H2O, then 2 l. of Et2O to give 167.6 g (81%) of a grey solid, mp 203°-206°. Recrystallization was best effected by dissolving the crude solid in boiling Me2CO (1 g/25 ml) and boiling down to 1 g/10 ml. The resulting yellow solid (133.5 g, mp 208°-209°) was recrystallized again from Me2CO to yield 111.8 g of white solid, mp 208°-209°. To remove Me2CO occluded by the crystalline solid, the product was further recrystallized from EtOH, 86% recovery of white solid, mp 208°-209°.

reactant | N-(3-oxocylohexyl)acetamide | 0.909 mol, 140.9 g | O=C1CC(CCC1)NC(C)=O | C8H13NO2
reactant | phenylhydrazine | 0.909 mol, 98.2 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | H2O | O | H2O
solvent | HOAc | 900 ml | CC(=O)O | C2H4O2
product | N-(1,3,4,9-tetrahydro-2H-carbazol-2-yl)acetamide | 167.6 g, 81% | C1C(CCC=2C3=CC=CC=C3NC12)NC(C)=O | C14H16N2O
